US09212196B2
Ethyl 2-(2-chloro-4-(hydroxymethyl)-6-methoxyphenoxy)acetate
The compound was prepared according to general procedure F with Ethyl 2-(2-chloro-4-formyl-6-methoxyphenoxy)acetate (1.5 mmol) in THF (20 ml) and water (20 ml) and NaBH4 (1.5 mmol). 355 mg of compound were obtained. This compound was used without further purification. 1H NMR (250 MHz, CDCl3): δ 1.31 (t, J=7.1 Hz, 3H), 3.86 (s, 3H), 4.25 (q, J=7.1 Hz, 2H), 4.55 (s, 2H), 4.60 (s, 2H) 6.95 (s, 1H), 6.98 (s, 1H). MS (ESI): m/z 274.9 and 276.9 [M+H]+, 570.7 and 572.7 [2M+Na]+

reactant | Ethyl 2-(2-chloro-4-formyl-6-methoxyphenoxy)acetate | 1.5 mmol | ClC1=C(OCC(=O)OCC)C(=CC(=C1)C=O)OC | C12H13ClO5
reactant | NaBH4 | 1.5 mmol | [BH4-].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 20 ml | O | H2O
product | Ethyl 2-(2-chloro-4-(hydroxymethyl)-6-methoxyphenoxy)acetate | 355 mg | ClC1=C(OCC(=O)OCC)C(=CC(=C1)CO)OC | C12H15ClO5
